US08557876B2
A 100 mL reaction flask is charged with 3,6,8,8-tetramethyl-hexahydro-3a,7-methano-azulen-5-one (prepared as described in U.S. Pat. No. 3,887,622) (10 g, 0.045 mol), formamidine acetate (21 g, 0.2 mol), and butanol (50 mL). The reaction mixture is heated to 130° C. and stirred for 24 hours. The crude mass is washed once with aqueous sulfuric acid (10%, 100 mL) followed by twice with brine (30 mL). Butanol is recovered by roto-evaporation. The crude product is further purified with liquid chromatography (Biotage® system) and then crystallized. Product 5,7,7,10-tetramethyl-6,7,7a, 8,9,10-hexahydro-5H-6,10a-methanoazuleno[5,4-d]pyrimidine (˜5 g) is obtained.

reactant | 3,6,8,8-tetramethyl-hexahydro-3a,7-methano-azulen-5-one | CC1CCC2C(C3C(C(CC12C3)=O)C)(C)C | C15H24O
reactant | formamidine acetate | 0.2 mol, 21 g | C(C)(=O)O.C(=N)N
solvent | butanol | 50 mL | C(CCC)O | C4H10O
product | 5,7,7,10-tetramethyl-6,7,7a, 8,9,10-hexahydro-5H-6,10a-methanoazuleno[5,4-d]pyrimidine | ˜5 g | CC1C2C(C3CCC(C3(C=3C1=NC=NC3)C2)C)(C)C | C17H24N2
